US04812462
A solution of 2.0 g methyl-1-(2-(1-adamantyl)ethyl)-5-diphenylacetyl-4,5,6,7-tetrahydro-1H-imidazo-[4,5-c]-pyridine-6-carboxylate in tetrahydrofuranmethanol (3:1, 20 mL) is treated at 25° C. with 4.1 mL 1N NaOH. After 6 hr the solution is evaporated, the residue is suspended in 10 mL water and treated with 4.1 mL 1N HCl. The resulting precipitate is collected by filtration and dried to afford a white solid, 1-(2-(1-adamantyl)ethyl)-5-diphenylacetyl-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridine-6-carboxylic acid. MS (FAB) 524 (M+1). mp 168°-175° C. or 187° to 200° C. dec.

reactant | methyl-1-(2-(1-adamantyl)ethyl)-5-diphenylacetyl-4,5,6,7-tetrahydro-1H-imidazo-[4,5-c]-pyridine-6-carboxylate | 2.0 g | COC(=O)C1CC2=C(CN1C(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)N=CN2CCC21CC3CC(CC(C2)C3)C1 | C34H39N3O3
reactant | NaOH | 1N, 4.1 mL | [OH-].[Na+]
solvent | tetrahydrofuranmethanol | 20 mL | O1C(CCC1)CO | C5H10O2
product | 1-(2-(1-adamantyl)ethyl)-5-diphenylacetyl-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridine-6-carboxylic acid | C12(CC3CC(CC(C1)C3)C2)CCN2C=NC=3CN(C(CC32)C(=O)O)C(C(C3=CC=CC=C3)C3=CC=CC=C3)=O | C33H37N3O3
